US04122178
A mixture of 6.16 g of 1-chloro-4-phenyl-4-phenylsulfonylbutane, 4.25 g of 4-(4-pyridylmethyl)piperazine, 4.24 g of sodium carbonate and 80 ml of toluene was refluxed with stirring for 72 hours. After cooling, water was added to the reaction mixture and the toluene layer was separated. The eoluene layer was extracted with a 10% aqueous hydrochloric acid solution and neutralized with potassium carbonate and then extracted with ethyl acetate. After drying over potassium carbonate, to the extract was added 7.0 g of maleic acid. The resulting maleate was purified with 2-propanol to give 3 g of 1-(4-phenyl-4-phenylsulfonylbutyl)-4-(4-pyridylmethyl)piperazine trimaleate, melting at 144°-146° C with decomposition.

reactant | 1-chloro-4-phenyl-4-phenylsulfonylbutane | 6.16 g | ClCCCC(S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H17ClO2S
reactant | 4-(4-pyridylmethyl)piperazine | 4.25 g | N1=CC=C(C=C1)CN1CCNCC1 | C10H15N3
reactant | sodium carbonate | 4.24 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
product | 1-(4-phenyl-4-phenylsulfonylbutyl)-4-(4-pyridylmethyl)piperazine trimaleate | 3 g | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.C1(=CC=CC=C1)C(CCCN1CCN(CC1)CC1=CC=NC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C26H31N3O2S.3C4H4O4/c30-32(31,25-10-5-2-6-11-25)26(24-8-3-1-4-9-24)12-7-17-28-18-20-29(21-19-28)22-23-13-15-27-16-14-23;3*5-3(6)1-2-4(7)8/h1-6,8-11,13-16,26H,7,12,17-22H2;3*1-2H,(H,5,6)(H,7,8)/b;3*2-1-
